US04018794
By replacing in Example 1, step C, 4-benzoyl-3-n-butoxy-5-nitrobenzoic acid with 4-benzoyl-5-nitro-3-n-pentyloxybenzoic acid and following the procedure described, 5-amino-4-benzoyl-3-n-pentyloxybenzoic acid is obtained with a melting point of 168.5° -170° C.

reactant | 4-benzoyl-3-n-butoxy-5-nitrobenzoic acid | C(C1=CC=CC=C1)(=O)C1=C(C=C(C(=O)O)C=C1[N+](=O)[O-])OCCCC | C18H17NO6
reactant | 4-benzoyl-5-nitro-3-n-pentyloxybenzoic acid | C(C1=CC=CC=C1)(=O)C1=C(C=C(C(=O)O)C=C1[N+](=O)[O-])OCCCCC | C19H19NO6
product | 5-amino-4-benzoyl-3-n-pentyloxybenzoic acid | NC=1C(=C(C=C(C(=O)O)C1)OCCCCC)C(C1=CC=CC=C1)=O | C19H21NO4
